US08357693B2
A mixture of tert-butyl 5-(6-hydroxy-7-methoxy-2-(3-nitrophenyl)quinazolin-4-ylamino)-1H-indazole-1-carboxylate (0.475 g, 0.898 mmol), 2-chloro-N,N-dimethylethanamine (0.28 g, 1.94 mmol) and K2CO3 (1.18 g, 2.54 mmol) in DMF (8 mL) was heated at 85° C. for 3 h. The volatiles were removed in vacuo and the residue was taken up in CHCl3/MeOH. The solid was removed via filtration and the filtrate was concentrated in vacuo. The residue was purified by column chromatography (SiO2, CHCl3/MeOH 93:7 then 90:10) to give tert-butyl 5-(6-(2-(dimethylamino)ethoxy)-7-methoxy-2-(3-nitrophenyl)quinazolin-4-ylamino)-1H-indazole-1-carboxylate. (0.087 g, 0.145 mmol, 16%). MS 600.4 (M+1).

reactant | tert-butyl 5-(6-hydroxy-7-methoxy-2-(3-nitrophenyl)quinazolin-4-ylamino)-1H-indazole-1-carboxylate | 0.898 mmol, 0.475 g | OC=1C=C2C(=NC(=NC2=CC1OC)C1=CC(=CC=C1)[N+](=O)[O-])NC=1C=C2C=NN(C2=CC1)C(=O)OC(C)(C)C | C27H24N6O6
reactant | 2-chloro-N,N-dimethylethanamine | 1.94 mmol, 0.28 g | ClCCN(C)C | C4H10ClN
reactant | K2CO3 | 2.54 mmol, 1.18 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
product | tert-butyl 5-(6-(2-(dimethylamino)ethoxy)-7-methoxy-2-(3-nitrophenyl)quinazolin-4-ylamino)-1H-indazole-1-carboxylate | CN(CCOC=1C=C2C(=NC(=NC2=CC1OC)C1=CC(=CC=C1)[N+](=O)[O-])NC=1C=C2C=NN(C2=CC1)C(=O)OC(C)(C)C)C | C31H33N7O6
